US07300951B2
To a stirring solution of lithium borohydride (14.5 mL of a 2M solution in THF, 29 mmol) at 0° C. was added chlorotrimethylsilane (7.38 mL, 58 mmol) dropwise over a period of 30 min. The ice bath was removed and the resulting slurry was stirred at 25° C. for 30 min. The reaction mixture was cooled to 0° C. and 5,5,5-trifluoro-L-alloisoleucine (2.7 g, 16.98 mmol) was added in portions as a solid over a period of 15 min. The reaction mixture was allowed to warm slowly to 25° C. as the ice bath melted. After 3 days at 25° C., the reaction mixture was cooled to 0° C., and methanol (22 mL) was carefully added over a period of 30 min. The solution was stirred at 25° C. for an additional 40 min, then concentrated under reduced pressure in a water bath at 60° C. The resulting slurry was made basic with 20% sodium hydroxide (10 mL). Water (10 mL) was added, and the entire aqueous layer was extracted with methylene chloride (100 mL) and dried over MgSO4. The organic phase was filtered and evaporated to produce (2S, 3R)-2-amino-5,5,5-trifluoro-3-methylpentan-1-ol as a crude oil (2.6 g, 89.6%). Mass Spectrum (−ESI): 170 (M−H)−.

reactant | lithium borohydride | [BH4-].[Li+]
reactant | chlorotrimethylsilane | 58 mmol, 7.38 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 5,5,5-trifluoro-L-alloisoleucine | 16.98 mmol, 2.7 g | FC(C[C@H]([C@H](N)C(=O)O)C)(F)F | C6H10F3NO2
reactant | methanol | 22 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | (2S, 3R)-2-amino-5,5,5-trifluoro-3-methylpentan-1-ol | N[C@H](CO)[C@@H](CC(F)(F)F)C | C6H12F3NO
